US08207164B2
j) 5-Chloro-pyridine-2-carboxylic acid [3-((R)-5-amino-3-fluoromethyl-3,6-dihydro-2H-[1,4]oxazin-3-yl)-4-fluoro-phenyl]-amide hydrochloride
A solution of ((R)-5-{5-[(5-chloro-pyridine-2-carbonyl)-amino]-2-fluoro-phenyl}-5-fluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl)-carbamic acid tert-butyl ester (106 mg, 0.22 mmol), 4 N HCl/Dioxan (1.1 ml, 4.41 mmol) and 3 N HCl/MeOH in CH2Cl2 was stirred for 15 h at room temperature and for 2 h at 40° C. to complete the conversion. The yellow solution was evaporated and taken up in MeOH. TBME was added and the white precipitate was filtered off to provide the title compound.

reactant | ((R)-5-{5-[(5-chloro-pyridine-2-carbonyl)-amino]-2-fluoro-phenyl}-5-fluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl)-carbamic acid tert-butyl ester | 0.22 mmol, 106 mg | C(C)(C)(C)OC(NC=1COC[C@@](N1)(CF)C1=C(C=CC(=C1)NC(=O)C1=NC=C(C=C1)Cl)F)=O | C22H23ClF2N4O4
reactant | HCl Dioxan | 4.41 mmol, 4 N, 1.1 ml | Cl.O1CCOCC1
reactant | HCl MeOH | 3 N | Cl.CO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 5-Chloro-pyridine-2-carboxylic acid [3-((R)-5-amino-3-fluoromethyl-3,6-dihydro-2H-[1,4]oxazin-3-yl)-4-fluoro-phenyl]-amide hydrochloride | Cl.NC1=N[C@](COC1)(CF)C=1C=C(C=CC1F)NC(=O)C1=NC=C(C=C1)Cl | InChI=1S/C17H15ClF2N4O2.ClH/c18-10-1-4-14(22-6-10)16(25)23-11-2-3-13(20)12(5-11)17(8-19)9-26-7-15(21)24-17;/h1-6H,7-9H2,(H2,21,24)(H,23,25);1H/t17-;/m0./s1
